US09422279B2
To a mixture of 5-(methoxymethoxy)pyridin-2-ol (1.35 g, 8.71 mmol, 1 eq.) and K2CO3 (6.01 g, 43.6 mmol, 5.0 eq.) in DMF (30.0 mL) was added 1-bromo-2-methoxyethane (3.61 g, 26.1 mmol, 3 eq.). The mixture was heated at 60° C. for 2 h, cooled, filtered, concentrated, and purified on silica gel using a mixture of EtOAc and hexanes as eluent to give 2-(2-methoxyethoxy)-5-(methoxymethoxy)pyridine (500 mg, 27%) as a colorless oil. NMR (400 MHz, CDCl3) δ 7.94 (d, J=3.0 Hz, 1H), 7.35 (ddd, J=8.9, 3.0, 1.0 Hz, 1H), 6.76 (dd, J=8.9, 1.0 Hz, 1H), 5.11 (s, 2H), 4.48-4.40 (m, 2H), 3.79-3.71 (m, 2H), 3.50 (s, 3H), 3.45 (s, 3H). MS (ESI) m/z 214.1 [M+H]+.

reactant | 5-(methoxymethoxy)pyridin-2-ol | 8.71 mmol, 1.35 g, 1 eq. | COCOC=1C=CC(=NC1)O | C7H9NO3
reactant | K2CO3 | 43.6 mmol, 6.01 g, 5.0 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-2-methoxyethane | 26.1 mmol, 3.61 g, 3 eq. | BrCCOC | C3H7BrO
solvent | DMF | 30.0 mL | CN(C)C=O | C3H7NO
product | 2-(2-methoxyethoxy)-5-(methoxymethoxy)pyridine | 500 mg, 27% | COCCOC1=NC=C(C=C1)OCOC | C10H15NO4
